US05840912
1-(4-chlor-5-difluormethoxy-1-methyl-3pyrazolyl)-5formyl-4-pyrazol-carbonitrile.
29 g (9.6 mmol) 1-(4-chlor-5-difluormethoxy-1-methyl-3-pyrazolyl)-5-hydroxymethyl-4-pyrazol-carbonitrile is added to 30 ml dichloromethane and 15.2 g pyridinium chlorochromate on aluminium oxide is then added. Stirring continues for 1 hour at room temperature and then the reaction mixture is vacuum filtered through Celite and purified by means of column chromatography using hexane/ethyl acetate.

reactant | 1-(4-chlor-5-difluormethoxy-1-methyl-3-pyrazolyl)-5-hydroxymethyl-4-pyrazol-carbonitrile | 9.6 mmol, 29 g | ClC=1C(=NN(C1OC(F)F)C)N1N=CC(=C1CO)C#N | C10H8ClF2N5O2
reactant | pyridinium chlorochromate | 15.2 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(4-chlor-5-difluormethoxy-1-methyl-3pyrazolyl)-5formyl-4-pyrazol-carbonitrile | ClC=1C(=NN(C1OC(F)F)C)N1N=CC(=C1C=O)C#N | C10H6ClF2N5O2
